US08980887B2
Synthesis of N-benzyl-N-ethyl-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide (Compound 1)
0.9 g (0.003 mol) of 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]-pyridine-3-acetic acid and 0.6 g (0.0045 mol) of N-benzylethylamine were weighed, added to 80 mL of dry dichloromethane, then added with 1.0 g (0.005 mol) of EDC hydrochloride. Stirred at room temperature and reacted for 24 h, stopped the reaction until almost completion of the reaction. Filtered to remove solid urea, concentrated, and then separated with silica gel column chromatograph to obtain a crude product which was recrystallized with acetone to obtain a pure white solid powder, 0.5 g in total, yield 39.9%. m.p. 192-193° C., ESI-MS m/z: 419[M+H]+, 1H NMR (CDCl3, 400 MHz)δ: 1.20(t, 3H, J=7.00 Hz), 2.54(s, 1.7H), 2.56(s, 1.3H), 3.38(q, 0.8H, J=7.00 Hz), 3.57(q, 1.2H, J=7.00 Hz), 4.11(s, 1H), 4.21(s, 1H), 4.59(s, 0.7H), 4.62(s, 1.3H), 7.09-7.15(m, 2H), 7.24-7.37(m, 5H), 7.46-7.56(m, 2H), 7.69-7.71(m, 1H), 8.09-8.23(m, 2H).

reactant | 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]-pyridine-3-acetic acid | 0.003 mol, 0.9 g | ClC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-benzylethylamine | 0.0045 mol, 0.6 g | C(C1=CC=CC=C1)CCN | C9H13N
reactant | EDC hydrochloride | 0.005 mol, 1.0 g | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | N-benzyl-N-ethyl-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide | yield 39.9% | C(C1=CC=CC=C1)N(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)Cl)=O)CC | C25H24ClN3O
